US06326359B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile
A solution of (2R,3R,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-(methoxymethyl)tetrahydro-3-furanyl benzoate (preparation 11) (6.75 g, 9.72 mmol) in methanol (300 ml) saturated with ammonia gas was stirred at room temperature for 72 hr. The solvent was removed under reduced pressure, the residue dissolved in dichloromethane and the solvent removed under reduced pressure (repeated). The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (98:2) gradually changing to dichloromethane:methanol (96:4). The residue was triturated with diethyl ether, filtered, washed with diethyl ether and dried to afford the title compound as a solid (2.20 g). MS: 487(MH+).

reactant | (2R,3R,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-(methoxymethyl)tetrahydro-3-furanyl benzoate | 9.72 mmol, 6.75 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N)COC | C40H34N6O6
reactant | ammonia | N | H3N
solvent | methanol | 300 ml | CO | CH4O
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile | 2.20 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C26H26N6O4
